US07683060B2
Step 1. 1,3-Benzothiazol-6-ylmethyl methanesulfonate
1,3-benzothiazol-6-ylmethanol (1.56 g, 0.00944 mol) and N,N-diisopropylethylamine (2.47 mL, 0.0142 mol) were stirred in methylene chloride (16 mL). The reaction mixture was cooled in an ethylene glycol/water (4/1)/dry ice bath. To the solution was added dropwise a solution of methanesulfonyl chloride (1.10 mL, 0.0142 mol) in DCM (2 mL). After 30 min the reaction mixture was quenched by adding water, and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to give the desired product which was directly used in the next step without purification. LCMC: (M+H)+=244.2.

reactant | 1,3-benzothiazol-6-ylmethanol | 0.00944 mol, 1.56 g | S1C=NC2=C1C=C(C=C2)CO | C8H7NOS
reactant | N,N-diisopropylethylamine | 0.0142 mol, 2.47 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dry ice | C(=O)=O | CO2
reactant | methanesulfonyl chloride | 0.0142 mol, 1.10 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | ethylene glycol water | C(CO)O.O
product | 1,3-Benzothiazol-6-ylmethyl methanesulfonate | CS(=O)(=O)OCC1=CC2=C(N=CS2)C=C1 | C9H9NO3S2
